US06777428B1
4-[3-(methylureido)benzoyl]-1-methylpiperidine
4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and poly(4-vinyl pyridine) (50 mg, 0.400 mmol, 2% cross-linked) in tetrahydrofuran (2 mL) were allowed to stand 10 min. Methyl isocyanate (20 μL, 0.344 mmol) was added and the reaction mixture was mixed for 96 h at ambient temperature. The reaction mixture was filtered and the filter cake was rinsed with methanol. Glacial acetic acid (0.5 mL) was added to the filtrate solution and the solution was mixed. This mixture was poured over a Varian Mega Bond Elut™ strong cation exchange column. The column was rinsed extensively with methanol to remove impurities, then treated with a 2M ammonia in methanol to elute the product from the column. The solvent was evaporated and the residue was purified by silica gel chromatography (5% 2M ammonia in methanol:methylene chloride). The solvent was evaporated to give 28.1 mg (89%) of the title compound.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | Methyl isocyanate | 0.344 mmol, 20 μL | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-[3-(methylureido)benzoyl]-1-methylpiperidine | 28.1 mg, 89% | CNC(NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1)=O | C15H21N3O2
